US07767829B2
14.2 2,3-Dimethyl-1,3-bis(4-sulfobutyl)-5-sulfo-3H-indole
To 2,3-dimethyl-3-(4-sulfobutyl)-5-sulfo-3H-indole (10 g) was added butane sultone (30 g) and the mixture heated to 140° C. overnight. On cooling to room temperature, sulfolan (20 ml) was added and the mixture poured into diethyl ether (500 ml). The resultant precipitate was removed by filtration and dried to give the desired product (12 g).

reactant | 2,3-dimethyl-3-(4-sulfobutyl)-5-sulfo-3H-indole | 10 g | CC1=NC2=CC=C(C=C2C1(CCCCS(=O)(=O)O)C)S(=O)(=O)O | C14H19NO6S2
reactant | butane sultone | 30 g | C1CCCOS1(=O)=O | C4H8O3S
reactant | sulfolan | 20 ml | S1(=O)(=O)CCCC1 | C4H8O2S
solvent | diethyl ether | 500 ml | C(C)OCC | C4H10O
product | 2,3-Dimethyl-1,3-bis(4-sulfobutyl)-5-sulfo-3H-indole | 12 g | CC1N(C2=CC=C(C=C2C1(CCCCS(=O)(=O)O)C)S(=O)(=O)O)CCCCS(=O)(=O)O | C18H29NO9S3
